US09402841B2
Step F: (S)-3-(1-((1-acryloylpyrrolidin-3-yl)amino)-7-fluoroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To a mixture of (S)-3-(7-fluoro-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one (100 mg, 0.35 mmol) in DCM (10 mL) was added 2,6-dimethylpyridine (122 mg, 1.15 mmol). The resulting mixture was cooled to −40° C. Acryloyl chloride (45 mg, 0.49 mmol) was added dropwise and the reaction mixture was stirred at −40° C. for 30 minutes. The reaction was quenched with MeOH (5 mL) and the mixture concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (79 mg, 75%). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.84 (s, 1H), 11.70 (s, 1H), 8.25-8.22 (d, J=10.8 Hz, 1H), 7.97-7.96 (m, 1H), 7.63-7.60 (m, 2H), 7.55-7.54 (m, 1H), 6.59-6.57 (m, 1H), 6.21-6.15 (m, 1H), 5.68-5.65 (dd, J1=10.4 Hz, J2=2.4 Hz, 1H), 5.20-5.18 (m, 1H), 4.19-4.15 (m, 0.5H), 3.70-3.67 (m, 2H), 3.69-3.45 (m, 1.5H), 3.25 (m, 0.5H), 2.26-2.24 (m, 1H), 2.08-2.03 (m, 1H).

reactant | (S)-3-(7-fluoro-1-(pyrrolidin-3-ylamino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 0.35 mmol, 100 mg | FC1=CC=C2C=C(N=C(C2=C1)N[C@@H]1CNCC1)C1=NNC(N1)=O | C15H15FN6O
reactant | 2,6-dimethylpyridine | 1.15 mmol, 122 mg | CC1=NC(=CC=C1)C | C7H9N
reactant | Acryloyl chloride | 0.49 mmol, 45 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-((1-acryloylpyrrolidin-3-yl)amino)-7-fluoroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 79 mg, 75% | C(C=C)(=O)N1C[C@H](CC1)NC1=NC(=CC2=CC=C(C=C12)F)C1=NNC(N1)=O | C18H17FN6O2
